US09340513B2
4-(((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(((R)-1-(2-Chlorophenyl)ethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid
To a solution of 1-tert-butyl 4-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(((R)-1-(2-chlorophenyl)ethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate (200 mg, 0.101 mmol) in dichloromethane (6 mL) stirred at room temp was added TFA (3 ml, 38.9 mmol). The reaction mixture was stirred at 25° C. for 2 h. The product was extracted with DCM (20 mL*2) and the combined organic phase was washed with H2O (20 mL*2) and brine (30 mL), dried. Then, the solvent was removed under reduced pressure. The residue was purified by preparative-HPLC to give the title compound (70 mg, 0.092 mmol, 91%) was collected as white solid. 1H NMR (400 MHz, METHANOL-d4) δ=8.69 (d, J=7.3 Hz, 1H), 7.50-7.17 (m, 4H), 6.83 (d, J=16.1 Hz, 1H), 6.03 (d, J=15.8 Hz, 1H), 5.52-5.35 (m, 1H), 4.50 (dd, J=5.1, 11.2 Hz, 1H), 3.32-3.26 (m, 1H), 3.00-2.80 (m, 1H), 2.73-2.49 (m, 2H), 2.35-0.77 (m, 50H); LC/MS: m/z calculated 761.4. Found 762.3 (M+1)+.

reactant | 1-tert-butyl 4-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(((R)-1-(2-chlorophenyl)ethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate | 0.101 mmol, 200 mg | CC(C(=O)OC(C)(C)C)(CC(=O)O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5(C([C@H]4CC[C@@H]3[C@]2(CC1)C)=C(C(C5)=O)C(C)C)\C=C\C(=O)N[C@H](C)C5=C(C=CC=C5)Cl)C)C)(C)C)C | C50H72ClNO6
reactant | TFA | 38.9 mmol, 3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 4-(((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(((R)-1-(2-Chlorophenyl)ethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid | 0.092 mmol, 70 mg, 91% | ClC1=C(C=CC=C1)[C@@H](C)NC(/C=C/[C@]12C([C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)OC(CC(C(=O)O)(C)C)=O)C)=C(C(C2)=O)C(C)C)=O | C46H64ClNO6
